US08071591B2
To a solution of 3-(2-pyridyl)cyclopentan-1-one (3.17 g, 19.7 mmol) in MeOH (80 ml) was added portionwise NaBH4 (745 mg. 19.7 mmol) at 0° C., and stirred for 2 h at room temperature. The reaction mixture was poured into ice-water and then extracted with EtOAc. The organic layer was dried over anhyd Na2SO4 followed by the removal of solvent. The crude product was purified by column chromatography (Hexane/EtOAc=1/1→1/3) to yield cis-3-(2-pyridyl)cyclopentanol (1.90 g, 59%) as colorless oil.

reactant | 3-(2-pyridyl)cyclopentan-1-one | 19.7 mmol, 3.17 g | N1=C(C=CC=C1)C1CC(CC1)=O | C10H11NO
reactant | NaBH4 | 19.7 mmol, 745 mg | [BH4-].[Na+]
solvent | MeOH | 80 ml | CO | CH4O
product | cis-3-(2-pyridyl)cyclopentanol | 1.90 g, 59% | N1=C(C=CC=C1)[C@H]1C[C@H](CC1)O | C10H13NO
